US05610185
5,6-Dihydroxy-2-naphthoic acid β-phenylethyl ester (67H-52-A).
A total of 240 mg (1.0 mmol) of 5,6-dimethoxy-2-naphthoic acid (Burke, T. R., et al., J. Med. Chem. (1993) 36, 425-432) was heated neat with pyridine.HCL (5.0 g) at 180°-200° C. under argon (40 minutes). Excess pyridine.HCL was distilled off under high vacuum and residue mixed with 1N HCL (20 mL), giving 5,6-dihydroxy-2-naphtohoic acid a light yellow solid which was collected by filtration (160 mg). A 140 mg (0.7 mmol) portion was reacted β-phenylethyl alcohol as described for compound 67H-46-A and purified by silica gel chromatography (CHC3) to provide product 67H-52-A as a white solid (1200 mg, 36% yield overall): mp 164°-166° C.; 1HNMR (DMSO-d6) δ8.40 (d, 1H, J=1.6 Hz), 8.07 (d, 1H, J=8.8 Hz), 7.80 (dd, 1H, J=1.6 Hz & 8.8 Hz), 7.49 (d, 1H, J=8.6 Hz), 7.38-7.33 (m, 5H), 7.25 (d, 1H, J=8.6 Hz), 4.51 (t, 2H, J=6.8 Hz), 3.08 (t, 2H, J=6.8 Hz); FABMS (NBA,-VE)mz 307 (M--H). Anal. (C19H16O4) C,H.

reactant | 5,6-dimethoxy-2-naphthoic acid | 1.0 mmol, 240 mg | COC1=C2C=CC(=CC2=CC=C1OC)C(=O)O | C13H12O4
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5,6-Dihydroxy-2-naphthoic acid β-phenylethyl ester | 36% yield | C1(=CC=CC=C1)CCOC(=O)C1=CC2=CC=C(C(=C2C=C1)O)O | C19H16O4
